US07662824B2
(S)-4-Bromo-3-hydrazono-2-oxo-2,3-dihydro-1H-indole-6-carboxylic acid [3-(2-hydroxymethyl-pyrrolidin-1-yl)-propyl]-amide (0.22 g, 0.52 mmol) was added to a solution of (2,3-dihydro-benzofuran-5-yl)-acetic acid (0.93 g, 0.52 mmol), triethylamine (0.01 mL, 0.78 mmol) and HBTU (0.20 g, 0.52 mmol) in DMF (4 mL) and stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and purified by column chromatography (20% methanol in dichloromethane) followed by HPLC (10-100% acetonitrile/water) to give 0.040 g (13%) of (S)-4-bromo-3-[(2-2,3-dihydro-benzofuran-5-yl-acetyl)-hydrazono]-2-oxo-2,3-dihydro-1H-indole-6-carboxylic acid [3-(2-hydroxymethyl-pyrrolidin-1-yl)-propyl]-amide. 1H NMR (400 MHz, CD3OD) δ 7.75 (s, 1H), 7.37 (s, 1H), 7.24 (s, 1H), 7.11 (d, J=7.8 Hz, 1H), 6.65 (d, J=8.2 Hz, 1H), 4.50 (t, J=12.7 Hz, 2H), 4.10 (bs, 2H), 3.88 (dd, J=3.9 Hz, J=12.2 Hz, 1H), 3.74-3.40 (m, 6H), 3.22-3.04 (m, 4H), 2.26-1.81 (m, 6H). Mass spectrum (LCMS, ESI pos.): Calcd for C27H30BrN5O5: 584.46. Found 584.1; (M+H).

reactant | (S)-4-Bromo-3-hydrazono-2-oxo-2,3-dihydro-1H-indole-6-carboxylic acid [3-(2-hydroxymethyl-pyrrolidin-1-yl)-propyl]-amide | 0.52 mmol, 0.22 g | OC[C@H]1N(CCC1)CCCNC(=O)C1=CC(=C2C(C(NC2=C1)=O)=NN)Br | C17H22BrN5O3
reactant | (2,3-dihydro-benzofuran-5-yl)-acetic acid | 0.52 mmol, 0.93 g | O1CCC2=C1C=CC(=C2)CC(=O)O | C10H10O3
reactant | triethylamine | 0.78 mmol, 0.01 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 0.52 mmol, 0.20 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (S)-4-bromo-3-[(2-2,3-dihydro-benzofuran-5-yl-acetyl)-hydrazono]-2-oxo-2,3-dihydro-1H-indole-6-carboxylic acid [3-(2-hydroxymethyl-pyrrolidin-1-yl)-propyl]-amide | 0.040 g, 13% | OC[C@H]1N(CCC1)CCCNC(=O)C1=CC(=C2C(C(NC2=C1)=O)=NNC(CC=1C=CC2=C(CCO2)C1)=O)Br | C27H30BrN5O5
